US04820727
Step (3) Preparation of N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine
N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine, 1,1-dimethylethyl ester (3.10 g, 6.51 mmol) was suspended in formic acid (122 mL) under nitrogen at room temperature and stirred for 11/2 hours. The reaction mixture was diluted with water (11/2 L) and extracted with ether (2×200 mL). The extracts were combined, dried over magnesium sulfate and concentrated. The residue was recrystallized from benzene to afford the title compound as a white solid (1.76 g, 64%), m.p. 162°-165° C.

reactant | N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine, 1,1-dimethylethyl ester | 6.51 mmol, 3.10 g | ClC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)OC(C)(C)C)C(=O)OC | C21H21ClF3NO6
solvent | formic acid | 122 mL | C(=O)O | CH2O2
solvent | water | 2 L | O | H2O
product | N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine | 1.76 g, 64% | ClC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)O)C(=O)OC | C17H13ClF3NO6
